US07368578B2
A mixture of [3-(methylamino)-1-phenyl-1H-pyrazol-4-yl]methanol (15.42 g), activated manganese dioxide (50 g) and tetrahydrofuran (150 mL) was stirred at room temperature for 16 hrs. The obtained mixture was filtered, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give 3-(methylamino)-1-phenyl-1H-pyrazole-4-carbaldehyde as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:4, v/v). Recrystallization from ethyl acetate-hexane gave colorless needle crystal (9.17 g, yield 60%). melting point: 83-84° C.

reactant | [3-(methylamino)-1-phenyl-1H-pyrazol-4-yl]methanol | 15.42 g | CNC1=NN(C=C1CO)C1=CC=CC=C1 | C11H13N3O
catalyst | manganese dioxide | 50 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 3-(methylamino)-1-phenyl-1H-pyrazole-4-carbaldehyde | CNC1=NN(C=C1C=O)C1=CC=CC=C1 | C11H11N3O
